US07642264B2
4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-2-(3-nitro-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine (example E.83) (3.6 g, 10.29 mmol) and commercially available 3-nitrophenylboronic acid (2.062 g, 12.35 mmol) according to the general procedure VI. Obtained as a light brown solid (2.1 g, 46%). MS (ISP) 437.2 [(M+H)+].

reactant | 2-chloro-4-[6-methyl-4-(4-trifluoromethylphenyl)-pyridin-2-yl]-pyrimidine | 10.29 mmol, 3.6 g | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
reactant | 3-nitrophenylboronic acid | 12.35 mmol, 2.062 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-2-(3-nitro-phenyl)-pyrimidine | CC1=CC(=CC(=N1)C1=NC(=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)C(F)(F)F | C23H15F3N4O2
